US04263394
3-nitro cinnamaldehyde was prepared by Claisen-Schmidt condensation of 3-nitrobenzaldehyde with acetaldehyde as follows.

reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetaldehyde | C(C)=O | C2H4O
product | 3-nitro cinnamaldehyde | [N+](=O)([O-])C=1C=C(C=CC=O)C=CC1 | C9H7NO3
